US20010027196A1
Following the method of Bell et al. (J. Heterocyclic Chem. 1983, 20, 41), hydrogen chloride gas was bubbled for 2 minutes though a solution of 6.00 g (29.0 mmol) 2-amino-4,6-dichloro-pyrimidine-5-carbaldehyde oxime in 800 ml acetic acid at 115° C. The mixture was then stirred at 115° C. for 16 hours before being cooled to room temperature. The resulting crystals were removed by filtration, and the filtrate concentrated in vacuo. The residue was triturated in 100 ml ether to afford 4.60 g (93%) 2-amino-4-chloro-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile as a light yellow crystalline solid. EI-MS m/e (%): 172 (M{37Cl}+, 23), 170 (M{35Cl}+, 71), 129 (53), 43 (100).

reactant | hydrogen chloride | Cl | ClH
reactant | 2-amino-4,6-dichloro-pyrimidine-5-carbaldehyde oxime | 29.0 mmol, 6.00 g | NC1=NC(=C(C(=N1)Cl)C=NO)Cl | C5H4Cl2N4O
reactant | acetic acid | 800 ml | C(C)(=O)O | C2H4O2
product | 2-amino-4-chloro-6-oxo-1,6-dihydro-pyrimidine-5-carbonitrile | 4.60 g, 93% | NC=1NC(C(=C(N1)Cl)C#N)=O | C5H3ClN4O
